US08003796B2
Step A. Preparation of 1-(4-(methylsulfonyl)phenyl)-4-(piperidin-4-yloxy)pyridin-2(1H)-one hydrochloric acid salt
A mixture of tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate (2.515 g, 5.61 mmol) and hydrogen chloride (4.0 M in dioxane, 35.0 mL, Aldrich) in methanol (45 mL) was stirred for 1 h and then concentrated in vacuo. The obtained solid was dissolved in methanol and evaporated to give 2.28 g of the crude product as a dark yellow solid. MS (ESI) 349 (M+H).

reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 5.61 mmol, 2.515 g | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
reactant | hydrogen chloride | 4.0 M, 35.0 mL | Cl | ClH
solvent | methanol | 45 mL | CO | CH4O
product | 1-(4-(methylsulfonyl)phenyl)-4-(piperidin-4-yloxy)pyridin-2(1H)-one hydrochloric acid salt | 2.28 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCNCC1)=O | InChI=1S/C17H20N2O4S.ClH/c1-24(21,22)16-4-2-13(3-5-16)19-11-8-15(12-17(19)20)23-14-6-9-18-10-7-14;/h2-5,8,11-12,14,18H,6-7,9-10H2,1H3;1H
